US03984549
A solution of 16.3 ml. of thiophosgene in 600 ml. of ether is added with rapid stirring to a suspension of 25.6 g. of 5-chloro-2-aminopyridine and 42 g. of calcium carbonate in 600 ml. of water. The reaction mixture is stirred for 11/2 hours and the ether layer separated and the water layer extracted with a 400 ml. portion of ether. The combined ether extracts are washed with water, dried over magnesium sulfate and evaporated to dryness in vacuo affording 29.9 g. of a dark red oil. The oil is distilled at 0.75 mm. of Hg. at a temperature 96° C. affording 5-chloro-2-pyridylisothiocyanate.

reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
reactant | ether | CCOCC | C4H10O
reactant | 5-chloro-2-aminopyridine | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | water | O | H2O
product | 5-chloro-2-pyridylisothiocyanate | ClC=1C=CC(=NC1)N=C=S | C6H3ClN2S
